US07897762B2
Diphosgene (3.1 g, 15.66 mmol), 5-((2-chloro-4-fluoro-5-nitrophenylamino)methyl)-N4-ethyl-N2-methoxy-N2-methylpyridine-2,4-diamine (4.3 g, 13.1 mmol) and Et3N (7 g, 65.2 mmol) were combined by the procedure of Example A4 to give 3-(2-chloro-4-fluoro-5-nitrophenyl)-1-ethyl-7-(methoxy(methyl)amino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one (2.7 g, 60% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.55 (d, J=7.6 Hz, 1 H), 8.09 (d, J=11.2 Hz, 1 H), 8.00 (s, 1 H), 6.63 (s, 1 H), 4.91 (d, J=13.6 Hz, 1 H), 4.55 (d, J=13.6 Hz, 1 H), 3.93 (m, 2 H), 3.77 (s, 3 H), 3.20 (s, 3 H), 1.23 (t, J=7.2 Hz, 3 H); MS (ESI) m/z: 410.2 [M+H]+.

reactant | Diphosgene | 15.66 mmol, 3.1 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 5-((2-chloro-4-fluoro-5-nitrophenylamino)methyl)-N4-ethyl-N2-methoxy-N2-methylpyridine-2,4-diamine | 13.1 mmol, 4.3 g | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])NCC=1C(=CC(=NC1)N(C)OC)NCC | C16H19ClFN5O3
reactant | Et3N | 65.2 mmol, 7 g | CCN(CC)CC | C6H15N
product | 3-(2-chloro-4-fluoro-5-nitrophenyl)-1-ethyl-7-(methoxy(methyl)amino)-3,4-dihydropyrido[4,3-d]pyrimidin-2(1H)-one | 2.7 g, 60% yield | ClC1=C(C=C(C(=C1)F)[N+](=O)[O-])N1C(N(C2=C(C1)C=NC(=C2)N(C)OC)CC)=O | C17H17ClFN5O4
